US05416079
To a stirred suspension of 100 g of (2β,3α,5α)-3-hydroxy-2-(4-morpholinyl)pregnan-20-one, prepared according to British Patent 1,039,441, in 2.5 l of methanol were added 81 ml of 3M methanolic hydrogen chloride and 10 ml of acetyl chloride. Bromine (16.6 ml) in 1 l of methanol was added dropwise over 1.5 h. The mixture was stirred at room temperature for a further 20 min and then poured into 18 l of water. Aqueous sodium carbonate solution was added until the pH exceeded 9.0 and the precipitated solid was filtered, washed with water and dissolved in dichloromethane. The solution was dried over sodium sulfate, the solvent removed, and the residue crystallized from acetone-hexane to give 46 g of (2β,3α,5α)-21-bromo-3-hydroxy-2-(4-morpholinyl)pregnan-20-one. 5.0 g of this 21-bromo compound were dissolved in 50 ml of 1-methyl-2-pyrrolidinone and 2.5 g of lithium chloride were added. The mixture was stirred at 80° C. under nitrogen for 2 h, cooled to room temperature and poured into 500 ml of water. The precipitated solid was filtered off, washed with water and dissolved in dichloromethane. The solution was dried over sodium sulfate, the solvent removed, and the residue crystallized from acetone-hexane to give 2 g of (2β,3α,5α)-21-chloro-3-hydroxy-2-(4-morpholinyl)pregnan-20-one as in Example 1.

reactant | (2β,3α,5α)-3-hydroxy-2-(4-morpholinyl)pregnan-20-one | 100 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(C[C@@H]1N1CCOCC1)C)C | C25H41NO3
reactant | hydrogen chloride | 3M, 81 ml | Cl | ClH
reactant | acetyl chloride | 10 ml | C(C)(=O)Cl | C2H3ClO
reactant | Bromine | 16.6 ml | BrBr | Br2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 2.5 l | CO | CH4O
solvent | methanol | 1 l | CO | CH4O
solvent | water | 18 l | O | H2O
product | (2β,3α,5α)-21-bromo-3-hydroxy-2-(4-morpholinyl)pregnan-20-one | 46 g | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H]([C@H](C[C@]4(C)[C@H]3CC[C@]12C)N1CCOCC1)O)=O | C25H40BrNO3
